US04234586
The process according to Example 6 is carried out except that p-chloro-aniline is replaced by aniline and ethyl-6-methyl-4-oxo-6,7,8,9-tetrahydro-4H-pyrido(1,2-a)pyrimidine-3-carboxylate is replaced by ethyl-7-methyl-4-oxo-6,7,8,9-tetrahydro-4H-pyrido(1,2-a)pyrimidine-3-carboxylate, respectively. Thus ethyl-9-(phenyl-hydrazono)-7-methyl-4-oxo-6,7,8,9-tetrahydro-4H-pyrido(1,2-a)pyrimidine-3-carboxylate is obtained with a yield of 60.2%. Mp.: 165°-167° C.

reactant | p-chloro-aniline | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | ethyl-6-methyl-4-oxo-6,7,8,9-tetrahydro-4H-pyrido(1,2-a)pyrimidine-3-carboxylate | C(C)OC(=O)C1=CN=C2N(C1=O)C(CCC2)C | C12H16N2O3
reactant | ethyl-7-methyl-4-oxo-6,7,8,9-tetrahydro-4H-pyrido(1,2-a)pyrimidine-3-carboxylate | C(C)OC(=O)C1=CN=C2N(C1=O)CC(CC2)C | C12H16N2O3
product | ethyl-9-(phenyl-hydrazono)-7-methyl-4-oxo-6,7,8,9-tetrahydro-4H-pyrido(1,2-a)pyrimidine-3-carboxylate | yield of 60.2% | C(C)OC(=O)C1=CN=C2N(C1=O)CC(CC2=NNC2=CC=CC=C2)C | C18H20N4O3
